US06165944
At 40-45° C., a solution of 32.8 g of sodium hydroxide in 330 ml of methanol was slowly added dropwise to a mixture of 170.0 g (0.54 mol) of methyl 2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoate and 1 l of methanol. The suspension was stirred at 50° C. for 5 hours. The solvent was distilled off, the residue was taken up in 1.5 1 of water and the aqueous phase was extracted three times with ethyl acetate. The aqueous phase was acidified with hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were subsequently washed neutral with water, dried and concentrated. 148.8 g (91% of theory) of 2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoic acid were obtained.

reactant | sodium hydroxide | 32.8 g | [OH-].[Na+]
reactant | methyl 2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoate | 0.54 mol, 170.0 g | ClC1=C(C(=O)OC)C=CC(=C1C1=NOCC1)S(=O)(=O)C | C12H12ClNO5S
solvent | methanol | 330 ml | CO | CH4O
solvent | methanol | 1 l | CO | CH4O
product | 2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoic acid | 148.8 g, 91% | ClC1=C(C(=O)O)C=CC(=C1C1=NOCC1)S(=O)(=O)C | C11H10ClNO5S
